US04075216
To a stirred slurry containing 38 grams (0.2 moles) of 2-oxo-3-benzothiazoline acetonitrile, 15.2 grams (0.2 moles) of thiolacetic acid (dried over MgSO4) and 300 ml. of anhydrous ethyl ether, dried hydrogen chloride gas is bubbled through the suspension at -5° to 0° C. for 3 hours. External cooling was removed and the reaction mixture is stirred at 25°-30° C. for 18 hours. The solid is collected by filtration, washed with 500 ml. of anhydrous ethyl ether and air-dried at 25°-30° C. for one hour. The solid (41 grams) was slurried with 700 ml. of water for one hour. After the addition of 300 ml. of water and 25 grams (0.25 moles) of concentrated hydrochloric acid stirring is continued at 25°-30° C. for another hour. The solid is collected by filtration, washed with water until neutral and air-dried at 25°-30° C. The product, 2-oxo-3-benzothiazoline ethanethioamide, mp. 205°-207° C. with decomposition, is obtained in 85% yield. After recrystallization from heptane/tetrahydrofuran (1:1), it melted at 216°-217° C.

reactant | 2-oxo-3-benzothiazoline acetonitrile | 0.2 moles, 38 grams | O=C1SC2=C(N1CC#N)C=CC=C2 | C9H6N2OS
reactant | thiolacetic acid | 0.2 moles, 15.2 grams | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | hydrochloric acid | 0.25 moles, 25 grams | Cl | ClH
solvent | water | O | H2O
product | 2-oxo-3-benzothiazoline ethanethioamide | 85% yield | O=C1SC2=C(N1CC(N)=S)C=CC=C2 | C9H8N2OS2
